US04596870
1-(Phenoxy)methyl-4,6-dimethyl-5-bromopyrimidin-2-one
A mixture of 4,6-dimethyl-5-bromopyrimidin-2-one (4.7 mmol) and triethylamine (4.7 mmol) in dichloromethane (60 ml) was heated at 40° C. for dissolution. The solution was then cooled to room temperature and (chloromethoxy)benzene [see Preparation 2] (4.7 mmol) in dichloromethane (15 ml) was added. The resultant mixture was stirred at room temperature for 11/2 h, the solvent distilled off, the mixture triturated with water, the remaining solid extracted with chloroform, the dried (MgSO4) chloroform solution evaporated, the residue triturated with a little ether, the residue redissolved in chloroform and the solution chromatographed on a column of alumina, activity III, using chloroform, Yield 0,35 g (24%), m.p. 120° C. (CCl4) (Found C50.32; H4.15. Calc. for C13H13BrN2O2 : C50.50; H4.25) 1H NMR (CDCl3): δ 2.50 and 2.68 (4-Me and 6-Me), 6.03 (CH2), 6.8-7.4 (Ph), MS [70 eV, m/z (% rel. int)]. 310/308 (6/7,M), 217(97), 215(100), 174(15), 172(12), 136(20), 135(19), 108(23) 94(19).

reactant | 4,6-dimethyl-5-bromopyrimidin-2-one | 4.7 mmol | CC1=NC(NC(=C1Br)C)=O | C6H7BrN2O
reactant | triethylamine | 4.7 mmol | C(C)N(CC)CC | C6H15N
reactant | (chloromethoxy)benzene | 4.7 mmol | ClCOC1=CC=CC=C1 | C7H7ClO
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-(Phenoxy)methyl-4,6-dimethyl-5-bromopyrimidin-2-one | O(C1=CC=CC=C1)CN1C(N=C(C(=C1C)Br)C)=O | C13H13BrN2O2
